US09428528B2
Step 3 Preparation of tert-butyl ((5-bromo-1,3,4-thiadiazol-2-yl)methyl)carbamate
To a stirred solution of (5-bromo-1,3,4-thiadiazol-2-yl)methanamine (0.425 g, 2.19 mmol) in 1,4-dioxane (10 mL) is added 10% aqueous K2CO3 solution (0.392 g, 2.84 mmol). The mixture is cooled to 0° C., and di-tert-butyl dicarbonate (0.525 g, 2.40 mmol) is added. The reaction mixture is stirred for 3 hours. The reaction mixture is concentrated in vacuo. The crude material is diluted with water and extracted with ethyl acetate. Organic layer is dried over sodium sulphate, concentrated and purified by column chromatography on silica gel eluting in 20% ethylacetate in hexane to give the title compound (0.30 g): 1H-NMR (400 MHz, CDCl3) δ 1.45 (s, 9H), 4.34-4.40 (bs, 1H), 4.66 (d, J=6.28 Hz, 2H), LC-MS (m/z): [M+H]=294.

reactant | (5-bromo-1,3,4-thiadiazol-2-yl)methanamine | 2.19 mmol, 0.425 g | BrC1=NN=C(S1)CN | C3H4BrN3S
reactant | K2CO3 | 2.84 mmol, 0.392 g | C(=O)([O-])[O-].[K+].[K+]
reactant | di-tert-butyl dicarbonate | 2.40 mmol, 0.525 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | tert-butyl ((5-bromo-1,3,4-thiadiazol-2-yl)methyl)carbamate | 0.30 g | BrC1=NN=C(S1)CNC(OC(C)(C)C)=O | C8H12BrN3O2S
